US04185115
Preparation of Ethyl p-[(7-Phenylheptyl)amino]benzoate
A mixture of 8.25 g. of ethyl p-aminobenzoate, 5.06 g. of 7-phenylheptylchloride, 3.6 g. of sodium iodide and 25 ml. of hexamethylphosphoramide is heated in an oil bath at 110° C. for 20 hours. The mixture is chilled, diluted with 30 ml. of ethanol-water (1:1) and with water to give crystals, m.p. 65°-67° C. Recrystallization from ethanol gives white crystals, m.p. 66.5°-68° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 7-phenylheptylchloride | C1(=CC=CC=C1)CCCCCCCCl | C13H19Cl
reactant | sodium iodide | [I-].[Na+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
solvent | ethanol water | C(C)O.O
product | Ethyl p-[(7-Phenylheptyl)amino]benzoate | C1(=CC=CC=C1)CCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C22H29NO2
